US06087387
thiolating 3-acetyl-5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylsulfinylpyrazole with trifluoromethylthio chloride to afford 3-acetyl-1-(2,6dichloro-4-trifluoromethylphenyl)-4-methylsulfinyl-5-trifluoromethylthioaminopyrazole;

reactant | 3-acetyl-5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylsulfinylpyrazole | C(C)(=O)C1=NN(C(=C1S(=O)C)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H10Cl2F3N3O2S
reactant | trifluoromethylthio chloride | FC(SCl)(F)F | CClF3S
product | 3-acetyl-1-(2,6dichloro-4-trifluoromethylphenyl)-4-methylsulfinyl-5-trifluoromethylthioaminopyrazole | C(C)(=O)C1=NN(C(=C1S(=O)C)NSC(F)(F)F)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H9Cl2F6N3O2S2
